US06887877B2
A solution of L-phenylalanine methyl ester (300 mg, 1.68 mmol) in anhydrous CH2Cl2 (10 mL) was cooled to 0° C. in an ice bath, then triethylamine (0.35 mL), 4-methoxy-2,3,6-trimethyl-benzenesulfonyl chloride (438 mg, 1.76 mmol) and catalytic amount of DMAP (25 mg) were added under a N2 atmosphere. The reaction mixture was stirred at room temperature for 12 h. After that period of time, the mixture was partitioned between water and CH2Cl2, the organic layer was separated, dried (Na2SO4) and concentrated. The residue was purified by silica gel column chromatography using ethyl acetate and hexane (1:2) as eluent to obtain 2-(4-Methoxy-2,3,6-trimethyl-benzenesulfonylamino)-3-phenyl-propionic acid methyl ester as a white solid, 500 mg (77%). 1H NMR (CDCl3, 400 MHz): δ7.26-7.18 (m, 3H), 7.02-6.99 (m, 2H), 6.53 (s, 1H), 5.12 (d, 1H), 4.09-4.04 (m, 1H), 3.84 (s, 3H), 3.55 (s, 3H), 3.05 (dd, 1H), 3.03 (dd, 1H), 2.64, 2.38, 2.08 (3s, 9H).

reactant | L-phenylalanine methyl ester | 1.68 mmol, 300 mg | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
reactant | triethylamine | 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy-2,3,6-trimethyl-benzenesulfonyl chloride | 1.76 mmol, 438 mg | COC1=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)C | C10H13ClO3S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(4-Methoxy-2,3,6-trimethyl-benzenesulfonylamino)-3-phenyl-propionic acid methyl ester | COC(C(CC1=CC=CC=C1)NS(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)=O | C20H25NO5S
